US06534655B1
Dimethyl phthalate (15.0 g) in tetrahydrofuran (100 ml) was added to a stirred suspension of sodium methoxide (8.31 g) in tetrahydrofuran (60 ml) followed by 4′-chloroacetophenone (11.8 g) in tetrahydrofuran (100 ml) at 20° C. under nitrogen. The mixture was then boiled under reflux for 18 hours then cooled to 20° C. and poured into ether (250 ml) and water (250 ml). The aqueous layer was separated and the organic layer was washed with water (3×75 ml). The combined aqueous extract and washings were acidified with concentrated hydrochloric acid and the solid which precipitated was collected by filtration. The filtrate was extracted with dichloromethane, dried and evaporated. The residue was recrystallized from ethanol to give 2-(4-chlorobenzoyl)-indan-1,3-dione.

reactant | Dimethyl phthalate | 15.0 g | C(C=1C(C(=O)OC)=CC=CC1)(=O)OC | C10H10O4
reactant | sodium methoxide | 8.31 g | C[O-].[Na+]
reactant | 4′-chloroacetophenone | 11.8 g | ClC1=CC=C(C=C1)C(C)=O | C8H7ClO
reactant | ether | 250 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | 250 ml | O | H2O
product | 2-(4-chlorobenzoyl)-indan-1,3-dione | ClC1=CC=C(C(=O)C2C(C3=CC=CC=C3C2=O)=O)C=C1 | C16H9ClO3
